US04082843
A stirred mixture of methyl 3-(3-acetoxy-2-hydroxybenzoyl)-propionate, potassium carbonate, methyl iodide, and dry acetone, was heated under reflux for 24 hours. Evaporation of the filtered solution gave methyl 3-(3-acetoxy-2-methoxybenzoyl)-propionate.

reactant | methyl 3-(3-acetoxy-2-hydroxybenzoyl)-propionate | C(C)(=O)OC=1C(=C(C(=O)CCC(=O)OC)C=CC1)O | C13H14O6
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | CI | CH3I
solvent | acetone | CC(=O)C | C3H6O
product | methyl 3-(3-acetoxy-2-methoxybenzoyl)-propionate | C(C)(=O)OC=1C(=C(C(=O)CCC(=O)OC)C=CC1)OC | C14H16O6
